US08247410B2
Synthesis of 2,6-Dichloro-9-(2,6-difluoro-benzyl)-9H-purine
To a stirred solution of 2,6-dichloropurine (5.3 mmol) in 10 ml anhydrous DMSO at room temperature was added anhydrous potassium carbonate (6.34 mmol) and 2,6-difluorobenzylbromide (6.34 mmol). The reaction mixture was maintained at this temperature for 20 hrs. The reaction can be monitored using either TLC or LC/MS. The reaction mixture was poured in to a beaker containing ice-cold water. The aqueous layer was acidified to pH 5-6. Extraction of the aqueous layer, using 3×75 ml portions of ethyl acetate, afforded the crude product. This was purified on the silica gel column (10-70% ethyl acetate in petroleum ether, step-gradient), to give the desired compound in a yield of 61%.

reactant | 2,6-dichloropurine | 5.3 mmol | ClC1=NC(=C2NC=NC2=N1)Cl | C5H2Cl2N4
reactant | potassium carbonate | 6.34 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | 2,6-difluorobenzylbromide | 6.34 mmol | FC1=C(CBr)C(=CC=C1)F | C7H5BrF2
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
product | 2,6-Dichloro-9-(2,6-difluoro-benzyl)-9H-purine | yield of 61% | ClC1=NC(=C2N=CN(C2=N1)CC1=C(C=CC=C1F)F)Cl | C12H6Cl2F2N4
